US07163947B2
A solution of N4-(morpholin-4-yl)quinoline-3,4-diamine (4.06 g, 16.6 mmol) in 50 mL of CH2Cl2 was treated with triethylamine (4.40 mL, 33.2 mmol) and cooled to 0° C. The solution was treated dropwise with ethoxyacetyl chloride (2.40 g, 17.4 mmol) and stirred under an atmosphere of nitrogen. The reaction mixture was allowed to slowly come to room temperature. After 2 d, the reaction mixture was concentrated under reduced pressure to yield a red semi-solid. The material was dissolved in CHCl3 and washed with water, 5% Na2CO3 solution and brine, dried over Na2SO4, filtered and dried to yield 2-ethoxy—N-{4-[(morpholin-4-yl)amino]quinolin-3-yl}acetamide (5.35 g) as a red/orange foam.

reactant | N4-(morpholin-4-yl)quinoline-3,4-diamine | 16.6 mmol, 4.06 g | N1(CCOCC1)NC1=C(C=NC2=CC=CC=C12)N | C13H16N4O
reactant | triethylamine | 33.2 mmol, 4.40 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 17.4 mmol, 2.40 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxy—N-{4-[(morpholin-4-yl)amino]quinolin-3-yl}acetamide | 5.35 g | C(C)OCC(=O)NC=1C=NC2=CC=CC=C2C1NN1CCOCC1 | C17H22N4O3
